US07563805B2
1-Benzyloxycarbonyl-4-methoxy-3-methylpyrrolidine-3-carboxylic acid
To a solution of ethyl 1-benzyloxycarbonyl-4-methoxy-3-methylpyrrolidine-3-carboxylate (0.38 g, 1.18 mmol) in ethanol (4 mL) was added 1N aqueous solution of sodium hydroxide (4 mL), and the mixture was stirred at 40° C. for 17.5 hours. Water (10 mL) was added to the reaction mixture, and the mixture was washed with ethyl acetate (10 mL×2). To the aqueous layer was added 1N hydrochloric acid (10 mL), and the mixture was extracted by chloroform (20 mL×3). The extract was washed with saturated aqueous solution of sodium chloride (20 mL), and dried with anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure to obtain 0.31 g (89%) of the title compound as a colorless oily product.

reactant | ethyl 1-benzyloxycarbonyl-4-methoxy-3-methylpyrrolidine-3-carboxylate | 1.18 mmol, 0.38 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)OC)(C(=O)OCC)C | C17H23NO5
reactant | sodium hydroxide | 4 mL | [OH-].[Na+]
reactant | Water | 10 mL | O | H2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 1-Benzyloxycarbonyl-4-methoxy-3-methylpyrrolidine-3-carboxylic acid | 0.31 g, 89% | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)OC)(C(=O)O)C | C15H19NO5
